US04117229
A stirred solution of 38 g. of stannous chloride dihydrate in 100 ml. of concentrated hydrochloric acid is treated portionwise with 10 g. of 2-nitro-1-[5-nitro-1-(phenylmethyl)-1H-imidazol-4-yl]ethanone. Ten ml. of ethanol are added to clarify the solution and the mixture is stirred at 60° C. for 3 hours. The solution is evaporated to near dryness and three 100 ml. portions of ethanol are added sequentially and evaporated from the residue. The residual syrup is stirred with 800 ml. of ether and the resulting solid is collected by filtration, washed with ether and dried at reduced pressure. This solid (a tin complex) is dissolved in 150 ml. of water and the tin is precipitated as the sulfide by bubbling hydrogen sulfide gas into the solution. The mixture is filtered and the filter cake washed with water. The filtrate and washings are combined and evaporated at reduced pressure. The residue is repeatedly evaporated with 100 ml. portions of ethanol. The final residual gum is triturated with 30 ml. of ethanol to give as a crystalline solid 2-amino-1-[5-amino-1-(phenylmethyl)-1H-imidazol-4-yl]ethanone dihydrochloride, which is collected by filtration, washed with ethanol and dried at reduced pressure; m.p. 155° C. (dec.).

reactant | hydrochloric acid | Cl | ClH
reactant | 2-nitro-1-[5-nitro-1-(phenylmethyl)-1H-imidazol-4-yl]ethanone | [N+](=O)([O-])CC(=O)C=1N=CN(C1[N+](=O)[O-])CC1=CC=CC=C1 | C12H10N4O5
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-1-[5-amino-1-(phenylmethyl)-1H-imidazol-4-yl]ethanone dihydrochloride | Cl.Cl.NCC(=O)C=1N=CN(C1N)CC1=CC=CC=C1 | InChI=1S/C12H14N4O.2ClH/c13-6-10(17)11-12(14)16(8-15-11)7-9-4-2-1-3-5-9;;/h1-5,8H,6-7,13-14H2;2*1H
